### PR TITLE
feat(jnlindsay): restricted Lorentz group

### PR DESCRIPTION
**Pull request by jnlindsay**
- [x] Definition of the restricted Lorentz group as a set
- [x] Show the restricted Lorentz group is a subgroup of the Lorentz group
  - [ ]  Maybe also: connected, normal subgroup

### CODE REVIEW

**Comment by jnlindsay** [comment]
TODO
- [x] Figure out why the linter doesn't like `instance`

File: PhysLean/Relativity/Lorentz/Group/Basic.lean [hunk 1]
```diff
@@ -106,6 +106,10 @@ instance lorentzGroupIsGroup : Group (LorentzGroup d) where
   inv A := ⟨minkowskiMatrix.dual A.1, LorentzGroup.dual_mem A.2⟩
   inv_mul_cancel A := Subtype.eq (LorentzGroup.mem_iff_dual_mul_self.mp A.2)
 
+lemma inv_eq_dual (Λ : LorentzGroup d) :
```
Comment (jnlindsay) [inline PhysLean/Relativity/Lorentz/Group/Basic.lean:109]: Is this lemma redundant?

Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Basic.lean:109]: Did you need it for anything? I think Lean might already reduce the `Λ⁻¹` to `minkowskiMatrix.dual Λ.1`.

File: PhysLean/Relativity/Lorentz/Group/Proper.lean [hunk 2]
```diff
@@ -176,6 +176,11 @@ instance : DecidablePred (@IsProper d) := by
   intro Λ
   apply Real.decidableEq
 
+/-- The product of two proper Lorentz transformations is proper. -/
+lemma mul_proper_of_proper_proper {Λ Λ' : LorentzGroup d} (h : IsProper Λ) (h' : IsProper Λ') :
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Lorentz/Group/Proper.lean]: maybe mul_isProper_of_isProper_isProper

File: PhysLean/Relativity/Lorentz/Group/Restricted.lean [hunk 3]
```diff
@@ -3,25 +3,59 @@ Copyright (c) 2024 Joseph Tooby-Smith. All rights reserved.
...
+/-- The restricted Lorentz group comprises the proper and orthochronous elements of the
+Lorentz group. -/
+def Restricted (d : ℕ) : Set (LorentzGroup d) :=
+  { Λ : LorentzGroup d | IsProper Λ ∧ IsOrthochronous Λ }
+
+open Matrix
+open minkowskiMatrix
+
+/-- The restricted Lorentz group is a subgroup of the Lorentz group. -/
+def RestrictedIsSubgroup {d : ℕ} : Subgroup (LorentzGroup d) where
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Lorentz/Group/Restricted.lean]: I think it would be better to call this `restricted`, and delete the definition `Restricted` above.

File: PhysLean/Relativity/Lorentz/Group/Restricted.lean [hunk 4]
```diff
@@ -3,25 +3,59 @@ Copyright (c) 2024 Joseph Tooby-Smith. All rights reserved.
...
+    have h_η₀₀ : @minkowskiMatrix d (Sum.inl 0) (Sum.inl 0) = 1 := by rfl
+    have h_dual : (dual Λ.1) (Sum.inl 0) (Sum.inl 0) = Λ.1 (Sum.inl 0) (Sum.inl 0) := by
+      rw [dual_apply, h_η₀₀, one_mul, mul_one]
+
+    exact ⟨
+      by rw [IsProper, inv_eq_dual, det_dual, Λ_proper],
+      by rw [IsOrthochronous, inv_eq_dual, h_dual]; exact Λ_ortho⟩
+
+/-- The restricted Lorentz group is a group. -/
+instance restrictedIsGroup {d : ℕ} : Group (Restricted d) :=
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Lorentz/Group/Restricted.lean]: If you follow my previous comment I don't think this will be needed.

Comment (jnlindsay) [reply PhysLean/Relativity/Lorentz/Group/Restricted.lean]: I also got rid of the `Coe` because it seems Lean does it automatically?

File: PhysLean/Relativity/Lorentz/Group/Basic.lean (hunk 1 above)
Comment (jnlindsay) [reply PhysLean/Relativity/Lorentz/Group/Basic.lean:109]: I do use it, and `det_dual : ... (dual Λ).det = Λ.det` seems to only pattern-match `dual ↑Λ` but not `↑Λ⁻¹`.

File: PhysLean/Relativity/Lorentz/Group/Restricted.lean (hunk 3 above)
Comment (jnlindsay) [reply PhysLean/Relativity/Lorentz/Group/Restricted.lean]: I've used `Restricted` (uppercase R), according to the informal definition :) let me know if I should change it

Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Restricted.lean]: The general convention is that all definitions are lower case, except types and props which are upper case. 

I actually don't know about `Restricted` because it gets cast as a type, but strictly isn't. So am happy to keep it as is or change to lower case.

File: PhysLean/Relativity/Lorentz/Group/Restricted.lean (hunk 4 above)
Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Restricted.lean]: Yeah I think it will do this automatically:)

File: PhysLean/Relativity/Lorentz/Group/Basic.lean (hunk 1 above)
Comment (jstoobysmith) [reply PhysLean/Relativity/Lorentz/Group/Basic.lean:109]: Ah, ok. Yeah I don't think there is much harm in keeping this then.

**Review by jstoobysmith — APPROVED** [review]
I've approved these changes so feel free to merge when you are ready.

**Comment by jstoobysmith** [comment]
Ok, looking at convention in Mathlib for e.g. Matrix.specialUnitaryGroup, they seem to use lower case for `restricted`, so maybe it would be wise if we followed - we can change this in a future PR

**Comment by jstoobysmith** [comment]
Many thanks for this :)
